US07538224B2
A mixture of 2-morpholinoethylchloride hydrochloride (23 g, 0.12 mol) and 2-aminoethanol (22 mL, 0.36 mol) was stirred at 140° C. for 5 hours. After the reaction mixture was cooled to room temperature, water (0.10 L) was added thereto. The resulting aqueous solution was saturated with sodium chloride and extracted with chloroform (100 mL×6). The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was distilled to obtain 2-(2-morpholinoethylamino)ethanol (3.4 g, 16%).

reactant | 2-morpholinoethylchloride hydrochloride | 0.12 mol, 23 g | Cl.O1CCN(CC1)CCCl
reactant | 2-aminoethanol | 0.36 mol, 22 mL | NCCO | C2H7NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 0.10 L | O | H2O
product | 2-(2-morpholinoethylamino)ethanol | 3.4 g, 16% | O1CCN(CC1)CCNCCO | C8H18N2O2
